US07300939B2
To a solution of 508 μl (4.0 mmol) of 3-iodobenzylalcohol and 1.25 ml (20.0 mmol) of iodomethane in MeCN (20 ml) there were added 829 mg (6.0 mmol) of potassium carbonate. After stirring 3 h at 30° C., 320 mg (8.00 mmol) of NaH were added and stirring was continued a further 3 h at RT. Water was then added to the reaction mixture, which was extracted with chloroform. The organic phase was successively washed with water and a satd aq. NaCl soln and dried over MgSO4. Following filtration and removal of the solvent in vacuo there were obtained 863 mg (3.5 mmol, 87%) of 3-methoxymethyliodobenzene.

reactant | 3-iodobenzylalcohol | 4.0 mmol, 508 μl | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | iodomethane | 20.0 mmol, 1.25 ml | IC | CH3I
reactant | potassium carbonate | 6.0 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NaH | 8.00 mmol, 320 mg | [H-].[Na+]
solvent | MeCN | 20 ml | CC#N | C2H3N
solvent | Water | O | H2O
product | 3-methoxymethyliodobenzene | 3.5 mmol, 863 mg, 87% | COCC=1C=C(C=CC1)I | C8H9IO
